US08604034B2
To generate the acid chloride 3-methyl-1,2-oxazole-4-carboxylic acid (100 mg, 0.79 mmol) was dissolved in CH2Cl2 (10 mL). Oxalyl chloride (0.6 mL, 2.75 mmol) and a drop of DMF were added at 0° C. The ice bath was removed and the mixture stirred for 1 h before the solvent and excess of oxalyl chloride were removed with a strong stream of nitrogen. The residue was further dried in vacuo. 8-({[tert-butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (85 mg, 0.20 mmol) was dissolved in pyridine (4 mL) and the solution added to the previously generated acyl chloride in pyrine (1 mL) at 0° C. The ice bath was removed after 15 min and the mixture stirred at room temperature until completion (18 h). The resulting suspension was concentrated in vacuo and the residue partitioned between CH2Cl2 (20 mL) and a saturated aqueous solution of NaHCO3 (10 mL). The organic layers were separated and washed further with a saturated aqueous solution of NaHCO3 (10 mL) and brine (5 mL), dried (MgSO4), filtered and concentrated in vacuo to give a yellow gum. This gum was purified by flash column chromatography (Biotage SP4, 12 g cartridge, 70-100% EtOAc gradient in n-hexanes) to give 8-({[tert butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a pale yellow solid (76 mg, yield 71%). 1H NMR (400 MHz, MeOD): δ 0.11 (d, 6H, J 6.9 Hz), 0.90 (s, 9H), 2.35 (s, 3H), 3.78 (dt, 1H, J 11.5, 8.0 Hz), 4.05-4.21 (m, 2H), 4.31 (ddd, 1H, J 11.6, 8.5, 3.9 Hz), 4.46 (d, 1H, J 13.2 Hz), 4.65-4.77 (m, 2H), 5.96 (d, 1H, J 13.2 Hz), 6.16 (d, 1H, J 3.9 Hz), 6.77 (d, 1H, J 3.9 Hz), 7.26-7.32 (m, 2H), 7.38-7.43 (m, 2H), 9.10 (s, 1H).

reactant | Oxalyl chloride | 2.75 mmol, 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 8-({[tert-butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.20 mmol, 85 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC=C2N1CC1(N(C2=O)CCN1)C1=CC=C(C=C1)Cl | C22H30ClN3O2Si
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-({[tert butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 76 mg, yield 71% | C(C)(C)(C)[Si](OCC1=CC=C2N1CC1(N(C2=O)CCN1C(=O)C=1C(=NOC1)C)C1=CC=C(C=C1)Cl)(C)C | C27H33ClN4O4Si
